US06002008
4-[(3-Iodophenyl)amino]-6-nitro-3-quinolinecarbonitrile
A mixture of 3.10 ml (25.7 mmol) 3-iodoaniline, 200 ml ethanol, and 5.00 g (21.4 mmol) 4-chloro-6-nitro-3-quinolinecarbonitrile was heated to reflux under N2 for 3.5 hours. Cooled and made basic with a saturated sodium bicarbonate. Stripped solvents and azeotroped with ethanol. Slurried residue with hexane and collected. Air dried, washed solids with water, and dried in vacuo. Dissolved solids in 400 ml ethyl acetate, stirred with Darco, filtered and removed solvent. Dried solids in vacuo to give 7.38 g of yellow solid: mass spectrum (electrospray m/e): M+H=417.0.

reactant | 3-iodoaniline | 25.7 mmol, 3.10 ml | IC=1C=C(N)C=CC1 | C6H6IN
reactant | 4-chloro-6-nitro-3-quinolinecarbonitrile | 21.4 mmol, 5.00 g | ClC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C10H4ClN3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-[(3-Iodophenyl)amino]-6-nitro-3-quinolinecarbonitrile | 7.38 g | IC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C16H9IN4O2
